US08071584B2
5-Bromo-3-[(1,1-dioxidotetrahydro-2H-thiopyran-3-yl)methyl]-1H-indole-7-carboxylic acid
A mixture of ethyl 5-bromo-3-((1,1-dioxo-tetrahydro-2H-thiopyran-3-yl)methyl)-1H-indole-7-carboxylate (1.42 g, 0.034 mol) and LiOH (3.4 mL, 3 M) in MeOH (50 mL) was heated at reflux for one hour. The solvent was evaporated, and the mixture was acidified with 1N HCl and extracted with EtOAc (3×100 mL). The organic layer was dried, filtered and concentrated under reduced pressure, 1.30 (98.5%) of the title compound, which was carried on as is for the next step without further purification.

reactant | ethyl 5-bromo-3-((1,1-dioxo-tetrahydro-2H-thiopyran-3-yl)methyl)-1H-indole-7-carboxylate | 0.034 mol, 1.42 g | BrC=1C=C2C(=CNC2=C(C1)C(=O)OCC)CC1CS(CCC1)(=O)=O | C17H20BrNO4S
reactant | LiOH | 3 M, 3.4 mL | [Li+].[OH-]
solvent | MeOH | 50 mL | CO | CH4O
product | 5-Bromo-3-[(1,1-dioxidotetrahydro-2H-thiopyran-3-yl)methyl]-1H-indole-7-carboxylic acid | BrC=1C=C2C(=CNC2=C(C1)C(=O)O)CC1CS(CCC1)(=O)=O | C15H16BrNO4S
